US08981035B2
In a 2-liter four-necked flask equipped with a condenser tube, a Dean-Stark apparatus and a nitrogen blowing tube, 66.07 g (600 mmol) of hydroquinone, 91.22 g (660 mmol) of potassium carbonate, 500 mL of dimethylacetamide and 260 mL of toluene were mixed. The mixture was heated to 120° C. with stirring under nitrogen stream and was refluxed for 4 hours for removal of the solvent and the water content in the raw materials. The reaction solution was cooled down to room temperature and was subsequently heated at 135° C. for 24 hours after addition of 6.55 g (30 mmol) of 4,4′-difluorobenzophenone for removal of toluene. The reaction solution was kept heated for another 5 hours, was subsequently cooled down to room temperature and was added dropwise to 2.5 L of water. The resulting solid substance was filtered through filter paper having the mean pore size of 1 and was vacuum dried at 80° C. for 12 hours. The resulting dried solid matter was subjected to Soxhlet extraction using acetone for 6 hours. The acetone solution was further purified by a silica gel column (eluent: hexane/ethyl acetate=1.5/1), and 10.54 g of 4,4′-bis(4-hydroxyphenoxy)benzophenone was obtained.

reactant | hydroquinone | 600 mmol, 66.07 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 660 mmol, 91.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylacetamide | 500 mL | CC(=O)N(C)C | C4H9NO
reactant | 4,4′-difluorobenzophenone | 30 mmol, 6.55 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | toluene | 260 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4,4′-bis(4-hydroxyphenoxy)benzophenone | 10.54 g | OC1=CC=C(OC2=CC=C(C(=O)C3=CC=C(C=C3)OC3=CC=C(C=C3)O)C=C2)C=C1 | C25H18O5
